US09447097B2
c) 1-(2-(2-Aminoethoxy)-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine
tert-Butyl 2-(1-(2-(ethoxymethyl)-4-(tritylamino)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethylcarbamate (1.45 g, 2.07 mmol) was combined with dichloromethane (DCM, 12 mL) to give a colorless solution. TFA (6.0 mL, 77.9 mmol) was added and the mixture was stirred for 3 hours at room temperature. The reaction mixture was cooled to 0° C., 2N sodium hydroxide solution (40 mL) was added, and the basic solution was extracted with dichloromethane. Organic layers were combined, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 0 to 10% methanol in DCM) to give the title compound (0.62 g, 83%) as white solid; LC-MS (UV peak area, ESI) 97.5%, 358.2238 (MH+).

reactant | tert-Butyl 2-(1-(2-(ethoxymethyl)-4-(tritylamino)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethylcarbamate | 2.07 mmol, 1.45 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N1)CC(C)(OCCNC(OC(C)(C)C)=O)C | C43H49N5O4
reactant | TFA | 77.9 mmol, 6.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydroxide | 2N, 40 mL | [OH-].[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-(2-(2-Aminoethoxy)-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.62 g, 83% | NCCOC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC)(C)C | C19H27N5O2
